US04992431
Using the procedure of Example 17, 1.909 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-(2-bromoethoxyimino)-acetic acid (described in French Pat. No. 2,438,050), 0.68 g of tosyl chloride, 0.927 g of 3-methylthiomethyl-7-amino-ceph-3-eme-4-carboxylic acid and 15 ml of 67% aqueous formic acid were reacted to obtain 0.615 g of pure syn isomer of 3-methylthiomethyl-7-[2-(2-amino-4-thiazolyl)-2-{2-bromoethoxyimino}-acetamido]-ceph-3-eme-4-carboxylic acid with a melting point of 185° C. (decomposition).

reactant | 2-(2-tritylamino-4-thiazolyl)-2-(2-bromoethoxyimino)-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOCCBr | C26H22BrN3O3S
reactant | tosyl chloride | 0.68 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 3-methylthiomethyl-7-amino-ceph-3-eme-4-carboxylic acid | 0.927 g | CSCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C9H12N2O3S2
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | 3-methylthiomethyl-7-[2-(2-amino-4-thiazolyl)-2-{2-bromoethoxyimino}-acetamido]-ceph-3-eme-4-carboxylic acid | CSCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOCCBr)C=2N=C(SC2)N)=O)=O | C16H18BrN5O5S3
